US07425568B2
2-(4-Methoxyphenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 6-hydroxy-2-(4-methoxyphenyl)chroman-4-one. 1H NMR (300 MHz, d6-DMSO) δ: 8.78 (s, 1H), 7.35 (d, 2H, J 8.7 Hz), 6.94 (d, 2H, J 8.7 Hz), 6.88 (d, 1H, J 2.5 Hz), 6.56 (d, 1H, J 8.7 Hz), 6.52 (dd, 1H, J 8.7, 2.5 Hz), 5.37 (br s, 1H), 5.04 (d, 1H, J 10.9 Hz), 4.83-4.89 (m, 1H), 3.76 (s, 3H), 2.18-2.25 (m, 1H), 1.85-1.97 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-2-(4-methoxyphenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC=C(C=C1)OC)=O | C16H14O4
product | 2-(4-Methoxyphenyl)chroman-4,6-diol | COC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C16H16O4
